US07723368B2
Step 5: 1-(3,3-Difluoropropoxy)-3-ethynylbenzene
To a solution of ((3-(3,3-difluoropropoxy)phenyl)ethynyl)trimethylsilane (2.1 g, 7.82 mmol) from the previous step in MeOH (19.5 mL) was added K2CO3 (10.81 g, 78.2 mmol) at room temperature. The reaction mixture was stirred for 1.5 h after which it was diluted with water and EtOAc. The aqueous layer was separated and extracted with EtOAc once. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to give a brown oil. The oil was absorbed onto Celite (8 g). Flash chromatography (SiO2, 1% EtOAc 99% Hexanes to 3% EtOAc 97% Hexanes) provided 1.31 g, 85%, of the title compound as a yellow oil.

reactant | ((3-(3,3-difluoropropoxy)phenyl)ethynyl)trimethylsilane | 7.82 mmol, 2.1 g | FC(CCOC=1C=C(C=CC1)C#C[Si](C)(C)C)F | C14H18F2OSi
reactant | K2CO3 | 78.2 mmol, 10.81 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 19.5 mL | CO | CH4O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3,3-Difluoropropoxy)-3-ethynylbenzene | FC(CCOC1=CC(=CC=C1)C#C)F | C11H10F2O
